US09161945B2
To a solution of 2,4-dibromo-5-isopropylphenol (512 g, 1.74 mol) in chloroform (1.74 L), N,N-diisopropylethylamine (364 mL, 2.09 mol) was added, and cooled on ice. Chloromethyl methyl ether (159 mL, 2.09 mol) was added dropwise over 60 minutes, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was cooled on ice, and a 1M aqueous solution of sodium hydroxide (1.5 L) was added dropwise to separate the organic layer. The organic layer was washed with a 1M aqueous solution of sodium hydroxide (1.5 L) and water (1.5 L), and then dried over anhydrous magnesium sulfate. After filtering off the desiccant, the solvent was distilled off under reduced pressure. The resulting residue was purified by distillation under reduced pressure (0.93 to 1.5 hpa, 122° C. to 137° C.) to give 1,5-dibromo-2-isopropyl-4-(methoxymethoxy)benzene (548 g, 96%) as a light yellow oil.

reactant | 2,4-dibromo-5-isopropylphenol | 1.74 mol, 512 g | BrC1=C(C=C(C(=C1)Br)C(C)C)O | C9H10Br2O
reactant | N,N-diisopropylethylamine | 2.09 mol, 364 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Chloromethyl methyl ether | 2.09 mol, 159 mL | COCCl | C2H5ClO
reactant | sodium hydroxide | 1.5 L | [OH-].[Na+]
solvent | chloroform | 1.74 L | C(Cl)(Cl)Cl | CHCl3
product | 1,5-dibromo-2-isopropyl-4-(methoxymethoxy)benzene | 548 g, 96% | BrC1=C(C=C(C(=C1)Br)OCOC)C(C)C | C11H14Br2O2
